US06521754B2
Benzo[b]thiophene-2-carboxylic acid benzothiazol-2-ylamide
Using 2-amino-benzothiazole and benzo[b]thiophene-2-carboxylic acid chloride in pyridine the title compound was obtained as a light yellow solid (86% yield), MS: m/e=3 11.1 (M+H+).

reactant | 2-amino-benzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | benzo[b]thiophene-2-carboxylic acid chloride | S1C2=C(C=C1C(=O)Cl)C=CC=C2 | C9H5ClOS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Benzo[b]thiophene-2-carboxylic acid benzothiazol-2-ylamide | S1C(=NC2=C1C=CC=C2)NC(=O)C2=CC1=C(S2)C=CC=C1 | C16H10N2OS2
